US07989463B2
Step (i): Synthesis of 1-[4-(2-phenoxy-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester
The title compound was prepared following a published procedure in the literature (D'Angelo, N. D. et al. Tetrahedron Letters, 2006, 47, 5045-5048). A mixture of 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]cyclobutane carboxylic acid methyl ester (0.45 g, 1.26 mmol), phenol (0.23 g, 2.5 mmol), copper powder (0.010 g) and cesium carbonate (1.25 g, 3.8 mmol) in anhydrous dimethylformamide (3 mL) was stirred at a temperature in the range of 10° C. to 100° C. for 6 to 20 hours. The mixture was cooled to about 20 to 35° C. and diluted with water. The organics were extracted with EtOAc and the organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude was purified by column chromatography (silica gel) to afford white solid (43% yield).

reactant | 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]cyclobutane carboxylic acid methyl ester | 1.26 mmol, 0.45 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)Cl | C19H20ClN3O2
reactant | phenol | 2.5 mmol, 0.23 g | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 3.8 mmol, 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | copper | 0.010 g | [Cu] | Cu
product | 1-[4-(2-phenoxy-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)OC2=CC=CC=C2 | C25H25N3O3
